2105-01-31 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2105-1-30**] 04:31 PM
 ENDOSCOPY - At [**2105-1-30**] 06:38 PM
   - received 4U pRBCs total
   - on PPI ggt
   - EGD showed 12 mm oozing ulcer in pre-pylorus, 3 clips did not achieve
   hemostasis so cauterized it. rec no further transfusions, just watch
   serial hcts. will repeat EGD if acutely rebleeds.
   - updated family re:EGD results
   - hct up to 34 then stable at 33.2 in AM, wbc went up to 14.5 (13.5 in
   AM) but no fever
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Dextrose 50% - [**2105-1-30**] 04:46 PM
   Midazolam (Versed) - [**2105-1-30**] 06:38 PM
   Fentanyl - [**2105-1-30**] 06:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-1-31**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.5
   HR: 92 (82 - 97) bpm
   BP: 125/50(68) {104/40(57) - 144/72(84)} mmHg
   RR: 24 (16 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,967 mL
                                                                    151 mL
   PO:
             TF:
   IVF:
                                                                    792 mL
                                                                    151 mL
   Blood products:
                                                                  1,125 mL
   Total out:
                                                                    460 mL
                                                                    250 mL
   Urine:
                                                                    460 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,507 mL
                                                                    -99 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///15/
   Physical Examination
   GEN: NAD, pleasant, conversant
   HEENT: dry mucous membranes
   CV: RR, NL S1S2 no S3S4 MRG
   PULM: CTAB
   ABD: BS+ NTND, no masses or HSM
   LIMBS: No LE edema, no clubbing, R fem line c/d/i
   SKIN: No rashes or skin breakdown
   Labs / Radiology
   143 K/uL
   11.4 g/dL
   111 mg/dL
   3.5 mg/dL
   15 mEq/L
   5.4 mEq/L
   65 mg/dL
   121 mEq/L
   148 mEq/L
   33.2 %
   13.5 K/uL
        [image002.jpg]
                            [**2105-1-30**]  03:45 PM
                            [**2105-1-30**]  04:01 PM
                            [**2105-1-30**]  05:22 PM
                            [**2105-1-30**]  08:11 PM
                            [**2105-1-31**]  03:18 AM
   WBC
   8.6
   14.5
   13.5
   Hct
   20.8
   20
   34.4
   33.2
   Plt
   167
   170
   143
   Cr
   3.7
   3.5
   3.5
   TropT
   0.03
   <0.01
   Glucose
   [**Telephone/Fax (3) 10062**]
   Other labs: PT / PTT / INR:14.0/26.8/1.2, ALT / AST:32/23, Alk Phos / T
   Bili:69/0.7, Fibrinogen:622 mg/dL, Albumin:2.5 g/dL, LDH:272 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Cardiac enzymes flat x3
   Tacro level pnd
   Micro:
   MRSA screen pnd
   EGD [**1-30**]:
   Impression:
   Normal mucosa in the esophagus
   Blood in the stomach
   Ulcer in the pre-pylorus (thermal therapy)
   Ulcers in the duodenum
   Recommendations:
   serial hematocrits
   EGD in [**9-17**] weeks
   [**Hospital1 **] proton pump inhibitor
   Repeat EGD if acutely rebleeds
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   71M with ESRD s/p renal transplant in [**2102**] with ongoing chronic
   rejection and chronic renal insufficiency admitted with a UGIB with a
   recent history of melena x 1 and known duodenal and gastric ulcers. Pt
   not clearly compliant with PPIs also admits to chronic NSAID use.
   .
   # UGIB:  HCT dropped 10 points in 4 hours in ED. HD stable. Now s/p 4U
   pRBC transfusion.  s/p EGD, thermal therapy to oozing gastric ulcer.
   Repeat HCts are stable.
   - current access only with R femoral line
   - f/u GI recs
   - Type and screen up to date.
   - Switch PPI to 40mg IV BID
   - continue NPO until 24hrs after EGD, can advance diet as tolerated
   this PM
   - Hold metoprolol and amlodipine in the setting of acute UGIB
   - IR and surgery aware
   - Trend CBC and coags q8h for now, then [**Hospital1 **] if stable
   .
   # Hyperkalemia: Chronic issue for this patient. Could also be due to
   worsening renal function (although Cr at baseline of 3.6), or high
   level of tacrolimus.
   - f/u Tacro level
   - Initially improved with dextrose 25g x1 followed by insulin 10 units
   IV x 1 yesterday, now elev K again this AM
   - will give dextrose 25g x1 followed by insulin 10 units IV x 1 again
   - check PM lytes
   .
   # Hypernatremia/Metabolic acidosis: likely [**3-10**] dehydration, elev BUN
   - getting 500cc NS bolus
   - will start maintenance IVF bicarb & D5 gtt at 100cc/hr x 1L per Renal
   recs
   .
   # Leukocytosis: likely [**3-10**] to instrumentation, though WBC 13.5 at
   admission. Pt is afebrile, no localizing symptoms.
   - continue to trend
   .
   # Chronic renal insufficiency: Due to history GN and hypertension. S/p
   transplant in [**2102**]. Has ongoing baseline Cr around 3.5 due to chronic
   rejection.
   - f/u Tranplant nephrology recs
   - check UA
   - Tacro levels daily
   - Continue mycophenolate mofeteil 1000mg IV/PO Q12H
   - Continue tacrolimus per levels, currently 5mg PO Q12H
   - Continue Bactrim SS
   .
   # ECG changes: Has subtle deepening of chronic ST depressions in II,
   III, aVF, V5-6
   - EKG this AM show ST changes now resolved.
   - CEs x 3 have been flat
   - Monitor on tele
   .
   # HTN: Chronic issue.
   - Hold home Amlodipine 10 mg PO DAILY and Metoprolol Tartrate 12.5 mg
   PO BID in the setting of GIB
   .
   # FEN: IVF as needed, replete electrolytes, NPO for now, advance diet
   this PM
   # Prophylaxis: pneumoboots, PPI IV BID
   # Access: R fem line
   # Communication: Patient and brother in law, Mr. [**Last Name (Titles) **] [**Telephone/Fax (1) 10053**]
   # Code:  Full (discussed with patient)
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2105-1-30**] 04:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-02-01 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: UGIB, renal failure, hyperkalemia
   24 Hour Events:
   - advanced diet to clears
   - D5W with bicarb to help hyperNa and acidosis
   - small melena o/n x1
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2105-1-31**] 03:50 PM
   Other medications:
   Flowsheet Data as of  [**2105-2-1**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.8
C (98.2
   HR: 85 (82 - 105) bpm
   BP: 130/57(69) {96/48(68) - 170/81(84)} mmHg
   RR: 18 (18 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,679 mL
                                                                    397 mL
   PO:
                                                                    440 mL
             TF:
   IVF:
                                                                  2,139 mL
                                                                    397 mL
   Blood products:
   Total out:
                                                                  1,025 mL
                                                                    350 mL
   Urine:
                                                                  1,025 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,654 mL
                                                                     47 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///18/
   Physical Examination
   GEN: NAD, pleasant, conversant
   CV: RRR, 3/6 systolic murmur at R&LUSB
   PULM: CTA bilat
   ABD: BS+ NT/ND, + BS
   LIMBS: No LE edema, no clubbing, R fem line c/d/i.
   Labs / Radiology
   175 K/uL
   10.0 g/dL
   144 mg/dL
   3.2 mg/dL
   18 mEq/L
   4.4 mEq/L
   53 mg/dL
   119 mEq/L
   147 mEq/L
   29.3 %
   7.4 K/uL
        [image002.jpg]
                            [**2105-1-30**]  03:45 PM
                            [**2105-1-30**]  04:01 PM
                            [**2105-1-30**]  05:22 PM
                            [**2105-1-30**]  08:11 PM
                            [**2105-1-31**]  03:18 AM
                            [**2105-1-31**]  12:38 PM
                            [**2105-1-31**]  09:44 PM
                            [**2105-2-1**]  06:19 AM
   WBC
   8.6
   14.5
   13.5
   12.5
   9.7
   7.4
   Hct
   20.8
   20
   34.4
   33.2
   32.4
   31.6
   29.3
   Plt
   167
   170
   143
   177
   181
   175
   Cr
   3.7
   3.5
   3.5
   3.7
   3.2
   TropT
   0.03
   <0.01
   Glucose
   [**Telephone/Fax (3) 10085**]41
   144
   Other labs: PT / PTT / INR:14.0/26.8/1.2, CK / CKMB /
   Troponin-T:43//<0.01, ALT / AST:32/23, Alk Phos / T Bili:69/0.7,
   Fibrinogen:622 mg/dL, Albumin:2.5 g/dL, LDH:272 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Imaging: None new
   Final reads:
   CT c-spine, head - negative
   CT abd/pelvis without contrast - 1. No evidence of acute abdominal
   process.
     2. Left lower quadrant renal transplant with mild adjacent fat
   stranding, though not well evaluated on non-contrast CT.
     3. Left adrenal lesion measuring 12 mm, unchanged in size since [**2099**]
   therefore likely benign.
     4. Right femoral venous catheter in satisfactory position.
   Microbiology: None new
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   71M with ESRD s/p renal transplant in [**2102**] with ongoing chronic
   rejection and chronic renal insufficiency admitted with a UGIB with a
   recent history of melena x 1 and known duodenal and gastric ulcers. Pt
   not clearly compliant with PPIs also admits to chronic NSAID use.
   .
   # UGIB:  HCT dropped 10 points in 4 hours in ED. HD stable. Now s/p 4U
   pRBC transfusion.  s/p EGD, thermal therapy to oozing gastric ulcer.
   Repeat HCTs have slowly trended downwards.
   - access only with R femoral line and 1 peripheral
   - f/u GI recs
   - Type and screen up to date.
   - PPI 40mg IV BID
   - continue NPO until 24hrs after EGD, can advance diet as tolerated
   this PM
   - Hold metoprolol and amlodipine in the setting of acute UGIB
   - IR and surgery aware
   - Trend CBC and coags q8h for now, then [**Hospital1 **] if stable
   .
   # Hyperkalemia: Chronic issue for this patient. Could also be due to
   worsening renal function (although Cr at baseline of 3.6), or high
   level of tacrolimus.  Resolved this AM.
   - f/u Tacro levels daily
   - Initially improved with dextrose 25g x1 followed by insulin 10 units
   IV x 1 yesterday, now elev K again this AM
   - check PM lytes
   .
   # Hypernatremia/Metabolic acidosis: likely [**3-10**] dehydration, elev BUN
   - getting 500cc NS bolus
   - will start maintenance IVF bicarb & D5 gtt at 100cc/hr x 1L per Renal
   recs
   .
   # Leukocytosis: likely [**3-10**] to instrumentation, though WBC 13.5 at
   admission. Pt is afebrile, no localizing symptoms.
   - continue to trend
   .
   # Chronic renal insufficiency: Due to history GN and hypertension. S/p
   transplant in [**2102**]. Has ongoing baseline Cr around 3.5 due to chronic
   rejection.
   - f/u Tranplant nephrology recs
   - check UA
   - Tacro levels daily
   - Continue mycophenolate mofeteil 1000mg IV/PO Q12H
   - Continue tacrolimus per levels, currently 5mg PO Q12H
   - Continue Bactrim SS
   .
   # ECG changes: Has subtle deepening of chronic ST depressions in II,
   III, aVF, V5-6
   - EKG this AM show ST changes now resolved.
   - CEs x 3 have been flat
   - Monitor on tele
   .
   # HTN: Chronic issue.
   - Hold home Amlodipine 10 mg PO DAILY and Metoprolol Tartrate 12.5 mg
   PO BID in the setting of GIB
   .
   # FEN: IVF as needed, replete electrolytes, NPO for now, advance diet
   this PM
   # Prophylaxis: pneumoboots, PPI IV BID
   # Access: R fem line
   # Communication: Patient and brother in law, Mr. [**Last Name (Titles) **] [**Telephone/Fax (1) 10053**]
   # Code:  Full (discussed with patient)
   # Disposition: ICU for now, will consider call out with HCTs stable

2105-02-02 06:39:00 Physician Resident Progress Note
Chief Complaint: 71 yom with h/o ESRD [**3-10**] GN and HTN s/p transplant
   [**2102**] s/b chronic rejection admitted for UGIB with hyperkalemia and ARF.
   24 Hour Events:
   - per surgery, prelim path of [**Year (4 digits) 10092**] bx showed mucinous adenocarcinoma.
   placed orders for recal CA w/u -- MR [**First Name (Titles) 10092**] [**Last Name (Titles) **] protocol and liver US to
   look for mets. Pt is not aware of dx; surgery will address this with
   the pt when the path is finalized, he knows that something abnormal was
   seen and that he'll be going some additional test to evaluate it.
   - renal recs: continue MMF and prograf with daily AM tacro trough
   levels, give D5W at 100/hr x 2L for 2L free water deficit, start NaHCO3
   650 mg PO TID
   - surgery recs: check h. pylori
   - patient c/o right thigh burning which he attributes to fall, landed
   on that leg after syncopal episode from GIB
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-2-2**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.8
   HR: 83 (82 - 95) bpm
   BP: 124/58(75) {104/50(54) - 150/68(83)} mmHg
   RR: 23 (18 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    921 mL
                                                                    303 mL
   PO:
                                                                    360 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    561 mL
                                                                     63 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                    375 mL
   Urine:
                                                                    550 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    371 mL
                                                                    -73 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   General: NAD, sleeping
   Lungs: CTAB no WRR
   Heart: RRR no MRG
   Abdomen: soft,  NTND, ABS
   Extremities: mildly TTP right thigh, no echymosis or swelling, distal
   pulses 2+
   Labs / Radiology
   229 K/uL
   9.9 g/dL
   107 mg/dL
   3.4 mg/dL
   18 mEq/L
   4.5 mEq/L
   42 mg/dL
   115 mEq/L
   140 mEq/L
   29.2 %
   6.8 K/uL
        [image002.jpg]
                            [**2105-1-30**]  04:01 PM
                            [**2105-1-30**]  05:22 PM
                            [**2105-1-30**]  08:11 PM
                            [**2105-1-31**]  03:18 AM
                            [**2105-1-31**]  12:38 PM
                            [**2105-1-31**]  09:44 PM
                            [**2105-2-1**]  06:19 AM
                            [**2105-2-1**]  02:57 PM
                            [**2105-2-1**]  09:44 PM
                            [**2105-2-2**]  03:12 AM
   WBC
   14.5
   13.5
   12.5
   9.7
   7.4
   6.9
   6.8
   Hct
   20
   34.4
   33.2
   32.4
   31.6
   29.3
   28.5
   29.8
   29.2
   Plt
   170
   143
   177
   181
   175
   191
   229
   Cr
   3.7
   3.5
   3.5
   3.7
   3.2
   3.2
   3.4
   TropT
   0.03
   <0.01
   Glucose
   [**Telephone/Fax (3) 10085**]41
   144
   117
   107
   Other labs: PT / PTT / INR:13.2/22.7/1.1, CK / CKMB /
   Troponin-T:43//<0.01, ALT / AST:32/23, Alk Phos / T Bili:69/0.7,
   Fibrinogen:622 mg/dL, Albumin:2.5 g/dL, LDH:272 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Microbiology
   - no new culture data
   Radiology
   - no new imaging
   Assessment and Plan
   71 yom with ESRD s/p transplant in [**2102**] w/ ongoing chronic rejection,
   admitted for UGIB, known duodenal and gastic ulcers and found to have
   oozing pre-pyloric ulcer now s/p cauterization on recent EGD.
   .
   # UGIB:  patient last transfused 3 units PRBC
s on [**1-30**] and HCT
   initially trended from 34 to 29 but now stable for last 4 levels.
   Transfer to floor complicated by poor access with only femoral line and
   single peripheral.  Last episode of melena overnight Saturday.
   - maintain active type and screen
   - PPI 40 mg IV BID
   - continue to hold BP medications in setting of recent GIB and stable
   pressures
   - switch to [**Hospital1 **] HCT and coags
   .
   # Hyperkalemia:  initially felt to be [**3-10**] tracolimus levels vs
   worsening kidney function, now stable at 4.5  with stable Cr in 3
s (at
   baseline)
   - f/u daily Tacrolimus levels (goal [**6-25**])
   - switch to daily electrolytes
   .
   # Hypernatremia/Metabolic acidosis: likely [**3-10**] dehydration, uremia
   - continue to monitor with daily lytes
   - start NaHCO3 650 mg PO TID per renal
   .
   # Leukocytosis: likely [**3-10**] to instrumentation, though WBC 13.5 at
   admission. Pt is afebrile, no localizing symptoms.
   - continue to trend
   .
   # Chronic renal insufficiency: [**3-10**] GN and HTN now s/p transplant c/b
   chronic rejection with baseline Cr in 3
   - continue daily monitoring of AM trough tacrolimus levels
   - continue daily tacrolimus and MMF
   - continue Bactrim SS for prophylaxis
   - continue to monitor electrolytes and add NaHCO3 650 mg PO TID per
   renal
   .
   # ECG changes: Has subtle deepening of chronic ST depressions in II,
   III, aVF, V5-6
   - EKG this AM show ST changes now resolved.
   - CEs x 3 have been flat
   - Monitor on tele
   .
   # HTN: Chronic issue.
   - continue to hold home Amlodipine and Metoprolol Tartrate in the
   setting of GIB
   .
   # FEN: IVF as needed, replete electrolytes, NPO for now, advance diet
   this PM
   # Prophylaxis: pneumoboots, PPI IV BID
   # Access: R fem line, peripheral line
   # Communication: Patient and brother in law, Mr. [**Last Name (Titles) **] [**Telephone/Fax (1) 10053**]
   # Code:  Full (discussed with patient)
   # Disposition: patient to floor PM if HCT stable